US06974802B2
To a solution of 2′,3′-dideoxy-3′-fluoroguanosine (113 mg, 0.42 mmol) and 3-(N-benzyloxycarbonyl-L-valyloxymethyl)-4-stearoyloxy-butyric acid (140 mg, 0.21 mmol) in DMF (2 ml) were added dimethylaminopyridine (3 mg, 0.02 mmol) and DCC (52 mg, 0.25 mmol). After two days, dichloromethane (10 ml) and a few drops of acetic acid were added and the organic phase was filtered through Celite. The filtrate was washed with aqueous sodium hydrogen carbonate solution and the product 2′,3′-dideoxy-3′-fluoro-5′-O-[3-(N-benzyloxycarbonyl-L-valyloxymethyl)-4-stearoyloxy-butanoyl]guanosine was isolated by silica gel column chromatography to yield 51 mg.

reactant | 2′,3′-dideoxy-3′-fluoroguanosine | 0.42 mmol, 113 mg | F[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(N)=NC12 | C10H12FN5O3
reactant | 3-(N-benzyloxycarbonyl-L-valyloxymethyl)-4-stearoyloxy-butyric acid | 0.21 mmol, 140 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(CC(=O)O)COC(CCCCCCCCCCCCCCCCC)=O | C36H59NO8
reactant | dimethylaminopyridine | 0.02 mmol, 3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | DCC | 0.25 mmol, 52 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2′,3′-dideoxy-3′-fluoro-5′-O-[3-(N-benzyloxycarbonyl-L-valyloxymethyl)-4-stearoyloxy-butanoyl]guanosine | F[C@H]1C[C@@H](O[C@@H]1COC(CC(COC(CCCCCCCCCCCCCCCCC)=O)COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O)N1C=NC=2C(=O)NC(N)=NC12 | C46H69FN6O10
